US07230031B2
4-(4-Benzyloxy-3-iodophenoxy)-5-methyl-7-nitroindane
To a solution of 4-(4-benzyloxyphenoxy)-5-methyl-7-nitroindane (3.21 g) in dichloromethane (15 mL) was added silver acetate (1.86 g). After adding iodine (2.60 g), the mixture was stirred under an argon atmosphere in the dark at room temperature for 2 days. The insoluble material was removed by filtration. The filtrate was washed with an aqueous solution of sodium sulfite (1.7 g/40 mL), a saturated aqueous solution of sodium hydrogen carbonate and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (4.18 g).

reactant | 4-(4-benzyloxyphenoxy)-5-methyl-7-nitroindane | 3.21 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=C3CCCC3=C(C=C2C)[N+](=O)[O-])C=C1 | C23H21NO4
reactant | iodine | 2.60 g | II | I2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | silver acetate | 1.86 g | C(C)(=O)[O-].[Ag+]
product | 4-(4-Benzyloxy-3-iodophenoxy)-5-methyl-7-nitroindane | 4.18 g | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C3CCCC3=C(C=C2C)[N+](=O)[O-])C=C1)I | C23H20INO4
